US06730791B2
Step E: Preparation of 4-(cyclopropylcarbonyl) benzeneacetic acid, methyl ester
Dissolve 4-(cyclopropylcarbonyl)benzeneacetic acid in methanol (100 mL) containing concentrated sulfuric acid (10 drops). Stir 24 hours. Add triethylamine (2 mL) and concentrate the solution. Dissolve the residue in water/ethyl acetate. Wash the organic phase with saturated sodium hydrogen carbonate solution, dry over anhydrous magnesium sulfate and concentrate. Purify by silica gel chromatography (400 mL silica gel, 20% ethyl acetate/heptane as eluent) to give the title compound (4.6 g, 68%).

reactant | 4-(cyclopropylcarbonyl)benzeneacetic acid | C1(CC1)C(=O)C1=CC=C(C=C1)CC(=O)O | C12H12O3
reactant | methanol | 100 mL | CO | CH4O
catalyst | sulfuric acid | 10 drops | S(O)(O)(=O)=O | H2O4S
product | 4-(cyclopropylcarbonyl) benzeneacetic acid, methyl ester | 4.6 g, 68% | C1(CC1)C(=O)C1=CC=C(C=C1)CC(=O)OC | C13H14O3
